US04325955
1-(m-Fluorophenyl)-1-(p-fluorophenyl)-2-propanone
A solution of 16.5 g. of m-fluorophenyl-2-propanone [Z. Eckstein and J. Plenkiewicz, Rocznik, Chem., 37, 907 (1963)]in 70 ml. of p-fluorobenzene is cooled and stirred as 5.5 ml. of bromine are added dropwise. Argon gas is bubbled through the mixture for one hour. The solution is then added dropwise to a mixture of 29.6 g. of aluminum chloride and 70 ml. of p-fluorobenzene, stirred at 80°-90° C. Stirring is continued at this temperature for one hour then the mixture is poured into ice and 45 ml. of concentrated hydrochloric acid. Toluene is added, the organic layer is separated, washed with dilute sodium hydroxide and then water and distilled, giving the desired product as a liquid, b.p. 106°-112° C. (0.15 mm.).

reactant | m-fluorophenyl-2-propanone | FC=1C=C(C=CC1)CC(C)=O | C9H9FO
reactant | p-fluorobenzene | FC1=CC=CC=C1 | C6H5F
reactant | bromine | BrBr | Br2
product | 1-(m-Fluorophenyl)-1-(p-fluorophenyl)-2-propanone | FC=1C=C(C=CC1)C(C(C)=O)C1=CC=C(C=C1)F | C15H12F2O
